US09085555B2
3-Aminomethyl-5-chloro-4-fluoro-benzonitrile
To a solution of (3-chloro-5-cyano-2-fluoro-benzyl)-carbamic acid tert-butyl ester (645 mg, 2.27 mmol) in CH2Cl2 (15 mL) was added TFA (1.75 mL, 22.7 mmol), and stirring was continued at RT overnight. Volatiles were removed under reduce pressure, water was added and the mixture was washed with EtOAc. The aqueous layer was basified to pH=12 by addition of 4M NaOH solution and extracted twice with EtOAc. The combined organics were dried (phase separator) and evaporated to afford the title compound as a beige solid. MS (LC/MS): 185.0 [M+H]+; tR (HPLC conditions c): 2.62 min.

reactant | (3-chloro-5-cyano-2-fluoro-benzyl)-carbamic acid tert-butyl ester | 2.27 mmol, 645 mg | C(C)(C)(C)OC(NCC1=C(C(=CC(=C1)C#N)Cl)F)=O | C13H14ClFN2O2
reactant | TFA | 22.7 mmol, 1.75 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-Aminomethyl-5-chloro-4-fluoro-benzonitrile | NCC=1C=C(C#N)C=C(C1F)Cl | C8H6ClFN2
